US07838522B2
Step 4: methyl 2-piperidin-1-ylisonicotinate
A mixture of 2-Piperidin-1-yl-isonicotinic acid (30 g, 0.145 mol) in methanol (500 mL) was cooled to 0° C. and then thionylchloride (42 mL) was added. The reaction mixture was refluxed for 20 h. The solvent was removed under vacuum and the residue was taken up in EtOAc (500 mL). The organic layer was washed with 10% aqueous NaHCO3 solution, water, brine and dried. The solvent was removed under vacuum to methyl 2-piperidin-1-ylisonicotinate (18 g, 56%) as yellow liquid.

reactant | 2-Piperidin-1-yl-isonicotinic acid | 0.145 mol, 30 g | N1(CCCCC1)C=1C=C(C(=O)O)C=CN1 | C11H14N2O2
reactant | thionylchloride | 42 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 500 mL | CO | CH4O
product | methyl 2-piperidin-1-ylisonicotinate | N1(CCCCC1)C=1C=C(C(=O)OC)C=CN1 | C12H16N2O2
